US09290451B2
e) 6-(3-Chloro-phenyl)-5-cyclopentyl-pyridine-2-carboxylic acid
6-Bromo-5-cyclopentyl-pyridine-2-carboxylic acid methyl ester (0.6 g, 2.1 mmol), bis(diphenylphosphino)ferrocene-palladium(II)dichloride methylene chloride complex (CAN 95464-05-4, 90 mg, 0.11 mmol) and potassium carbonate (0.37 g, 2.68 mmol) were added to a solution of 3-chlorophenylboronic acid (CAN 63503-60-6, 0.42 g, 2.69 mmol) in water (20 mL) and DMF (2 mL). The mixture was stirred for 48 h at 100° C. Its pH was adjusted to pH=3 with diluted hydrochloric acid. The mixture was extracted with methylene chloride (3×20 mL). The organic layers were combined, dried over sodium sulfate and concentrated under reduced pressure to give the title compound (130 mg, 20%) which was used in the next step without further purification; MS (EI): m/e=302.0 [M+H]+.

reactant | 6-Bromo-5-cyclopentyl-pyridine-2-carboxylic acid methyl ester | 2.1 mmol, 0.6 g | COC(=O)C1=NC(=C(C=C1)C1CCCC1)Br | C12H14BrNO2
reactant | potassium carbonate | 2.68 mmol, 0.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chlorophenylboronic acid | 2.69 mmol, 0.42 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | bis(diphenylphosphino)ferrocene palladium(II)dichloride methylene chloride | 0.11 mmol, 90 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2].C(Cl)Cl.[Pd](Cl)Cl
product | 6-(3-Chloro-phenyl)-5-cyclopentyl-pyridine-2-carboxylic acid | 130 mg, 20% | ClC=1C=C(C=CC1)C1=C(C=CC(=N1)C(=O)O)C1CCCC1 | C17H16ClNO2
